US05741926
Benzyl 2-((2-Fluorophenyl)amino)acetate
The procedure of Zahler et al. was followed with minor modification (Zahler, R.; Koster, W. H.; Slusarchyk, W. A. EP 0138407). To a solution of benzyl bromoacetate (18.0 g, 12.5 mL, 79.6 mmol) and o-fluoroaniline (8.8 g, 7.7 mL, 100 mol %), in anhydrous DMF (60 mL) was added anhydrous K2CO3 (11 g, 100 mol %), and the mixture was stirred at rt overnight. The reaction mixture was diluted with water (120 mL) and extracted with EtOAc (3×200 mL). The combined organic layer was washed with water, dried, and then concentrated. Purification by LPLC (5% EtOAc- hexane) provided 18.0 g (88%) of the title compound as a colorless oil: 1H NMR (CDCl3) δ7.39-7.35 (m, 5H), 7.03-6.97 (m, 2H), 6.72-6.67 (m, 1H), 6.59 (dt, J=8.4, J=1.2, 1H), 5.23 (s, 2H), 4.01 (s, 2H); 13C (CDCl3) δ170.59, 151.66 (d, J=240), 135.24, 128.64 (2 carbons), 128.52, 128.39 (2 carbons), 124.55 (d, J=3.5), 117.79 (d, J=7.1), 114.71 (d, J=17.7), 112.28 (d, J=3.5), 67.11, 45.54; MS (EI, m/z)259 (M+).

reactant | benzyl bromoacetate | 79.6 mmol, 12.5 mL, 18.0 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | o-fluoroaniline | 7.7 mL, 8.8 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | K2CO3 | 11 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 120 mL | O | H2O
product | Benzyl 2-((2-Fluorophenyl)amino)acetate | 18.0 g, 88% | FC1=C(C=CC=C1)NCC(=O)OCC1=CC=CC=C1 | C15H14FNO2
